US07250414B2
Step A: Preparation of 2-[3-(2-Hydroxyethyl)phenyl]ethanol
To a stirred solution of (3-carboxymethylphenyl)acetic acid (1.0 g, 5.15 mmol) in THF (100 mL) was added slowly borane dimethyl sulfide (2.3 mL, 30.9 mmol). The resulting solution was stirred overnight (˜18 hours) and then quenched by slowly adding 1N HCl (100 mL). The mixture was then extracted using EtOAc (3×100 mL) and the combined organic layers were washed with saturated NaCl (100 mL), dried over magnesium sulfate, filtered and concentrated under vacuum to provide 750 mg of the title intermediate (87% yield), which was used without further purification.

reactant | (3-carboxymethylphenyl)acetic acid | 5.15 mmol, 1.0 g | C(=O)(O)CC=1C=C(C=CC1)CC(=O)O | C10H10O4
reactant | borane dimethyl sulfide | 30.9 mmol, 2.3 mL | CSC.B
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[3-(2-Hydroxyethyl)phenyl]ethanol | 750 mg, 87% yield | OCCC=1C=C(C=CC1)CCO | C10H14O2
